US06573326B2
The procedure of example 1 was followed, but 18.4 g of isopropenyl acetate, instead of 6.12 g of VeoVa 10, were dissolved in the vinyl acetate. Work-up followed that of example 1, yielding a vinyl acetate-isopropenyl acetate copolymer with a degree of hydrolysis of 99.2% and a molecular weight Mw greater than 100 000.

reactant | isopropenyl acetate | 18.4 g | C(C)(=O)OC(=C)C | C5H8O2
solvent | vinyl acetate | C(C)(=O)OC=C | C4H6O2
product | vinyl acetate isopropenyl acetate | C(C)(=O)OC=C.C(C)(=O)OC(=C)C | InChI=1S/C5H8O2.C4H6O2/c1-4(2)7-5(3)6;1-3-6-4(2)5/h1H2,2-3H3;3H,1H2,2H3
